US04739123
In a four necked 1 liter flask equipped with a thermometer, a condenser and a stirrer, 1-chloromethoxy-1,1-difluoro-2-trifluoromethyl-3,3,3-trifluoropropane (276.6 g, 1.04 mol) and silicon dioxide (50.8 g, 0.85 mol) were charged, and concentrated sulfuric acid (60 g, 0.61 mol) was dropwise added thereto while stirring. The reaction was continued at 110° C. for 21 hours. Then, the reaction mixture was distilled to give monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate (192.9 g).

reactant | 1-chloromethoxy-1,1-difluoro-2-trifluoromethyl-3,3,3-trifluoropropane | 1.04 mol, 276.6 g | ClCOC(C(C(F)(F)F)C(F)(F)F)(F)F | C5H3ClF8O
reactant | silicon dioxide | 0.85 mol, 50.8 g | [Si](=O)=O | O2Si
reactant | sulfuric acid | 0.61 mol, 60 g | S(O)(O)(=O)=O | H2O4S
product | monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate | 192.9 g | FC(C(C(=O)OCCl)C(F)(F)F)(F)F | C5H3ClF6O2
